US06001855
220 mg of 2-guanidino-4-methyl-thiazole-5-carboxylic acid, 265 mg of ethyl (RS)-3-[(piperidine-3-carbonyl)-amino]-propionate hydrochloride, 3 ml of DMF, 0.34 ml of N-methylmorpholine (N-MM) and 569 mg of O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium hexafluorophosphate (HBTU) are stirred at RT for 22 hours. The reaction mixture is diluted with ethyl acetate and washed firstly with a dilute aqueous solution of sodium carbonate and sodium chloride, then with dilute sodium chloride solution and finally with saturated sodium chloride solution. The organic phase is dried over sodium sulphate and evaporated in a vacuum. Chromatography on silica gel with ethyl acetate: ethanol 5:1 gives 270 mg of ethyl (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionate as a pale yellow foam. MS: 411 (M+H)+.

reactant | 2-guanidino-4-methyl-thiazole-5-carboxylic acid | 220 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)O | C6H8N4O2S
reactant | ethyl (RS)-3-[(piperidine-3-carbonyl)-amino]-propionate hydrochloride | 265 mg | Cl.N1CC(CCC1)C(=O)NCCC(=O)OCC
reactant | N-methylmorpholine | 0.34 ml | CN1CCOCC1 | C5H11NO
reactant | O-(benzotriazol-1-yl)-N,N,N',N'-tetramethyluronium hexafluorophosphate | 569 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | ethyl (RS)-3-[[1-(2-guanidino-4-methyl-thiazole-5-carbonyl)-piperidine-3-carbonyl]-amino]-propionate | 270 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)N1CC(CCC1)C(=O)NCCC(=O)OCC | C17H26N6O4S
